US07105671B2
A slurry of lithium aluminum hydride (883 mg, 23.27 mmol) in tetrahydrofuran (19.4 mL) cooled to 0° C. was treated with 2-(tetrahydro-pyran-2-yloxy)-cyclopentanecarboxylic acid ethyl ester (4.7 g, 19.59 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was poured onto ice/water. This mixture was filtered through a pad of celite (methylene chloride as eluent). The organics were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to give [2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-methanol (3.25 g, 83.6%) as a clear liquid: EI-HRMS m/e calcd for C11H20O3 (M+) 200.1412 found 200.1412.

reactant | lithium aluminum hydride | 23.27 mmol, 883 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(tetrahydro-pyran-2-yloxy)-cyclopentanecarboxylic acid ethyl ester | 19.59 mmol, 4.7 g | C(C)OC(=O)C1C(CCC1)OC1OCCCC1 | C13H22O4
solvent | tetrahydrofuran | 19.4 mL | O1CCCC1 | C4H8O
product | [2-(tetrahydro-pyran-2-yloxy)-cyclopentyl]-methanol | 3.25 g, 83.6% | O1C(CCCC1)OC1C(CCC1)CO | C11H20O3
